US07608639B2
3-{4-[3-(4-Chloro-2-phenoxy-phenoxy)-5-methyl-phenoxy]-2-methyl-phenyl}-propionic acid
The title compound is prepared by reacting the compound of 3-[4-(3-bromo-5-methyl-phenoxy)-2-methyl-phenyl]-propionic acid methyl ester with 4-chloro-2-phenoxy-phenol as in Example 18 to afford 0.118 g (22%). 1H NMR (400 MHz, CDCl3); HRMS (ES+) m/z exact mass calculated for C29H25O5Cl 489.1469, found 489.1457.

reactant | 3-[4-(3-bromo-5-methyl-phenoxy)-2-methyl-phenyl]-propionic acid methyl ester | COC(CCC1=C(C=C(C=C1)OC1=CC(=CC(=C1)C)Br)C)=O | C18H19BrO3
reactant | 4-chloro-2-phenoxy-phenol | ClC1=CC(=C(C=C1)O)OC1=CC=CC=C1 | C12H9ClO2
product | 3-{4-[3-(4-Chloro-2-phenoxy-phenoxy)-5-methyl-phenoxy]-2-methyl-phenyl}-propionic acid | ClC1=CC(=C(OC=2C=C(OC3=CC(=C(C=C3)CCC(=O)O)C)C=C(C2)C)C=C1)OC1=CC=CC=C1 | C29H25ClO5
